US04188492
To a solution of ethyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate (14.81 g, 0.0625 mole) in 30 ml of ethylene bromide was added dropwise at 0° a solution of aluminum bromide (25 g, 0.094 mole) in 20 ml of ethylene bromide. After stirring for 41/2 hours, the solution was poured into a mixture of ice and water. The resultant mixture was extracted three times with ether. The ether extracts were combined and successively washed twice with water, twice with aqueous sodium bicarbonate, twice with aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The ether was then removed by evaporation, leaving a residue. The residue was dissolved in n-hexane, and 1,5-diazabicyclo[5.4.0] undec-5-ene was added to the solution. Dimethylformamide was added as a cosolvent. The solution was poured into dilute aqueous hydrochloric acid at 0°. The resultant mixture was extracted with ether. The ether extract was washed with water, aqueous sodium bicarbonate, aqueous sodium chloride, and then dried. The ether was removed, and the residue was distilled under reduced pressure to afford ethyl 3-(2,2-dibromovinyl)-2,2-dimethylcyclopropanecarboxylate (16.28 g, 87% yield); bp, 104-106°/0.28 mm.

reactant | ethyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate | 0.0625 mole, 14.81 g | ClC(=CC1C(C1C(=O)OCC)(C)C)Cl | C10H14Cl2O2
reactant | aluminum bromide | 0.094 mole, 25 g | [Br-].[Al+3].[Br-].[Br-]
reactant | 1,5-diazabicyclo[5.4.0] undec-5-ene | N12CCCN=CC2CCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene bromide | 30 ml | C(CBr)Br | C2H4Br2
solvent | ethylene bromide | 20 ml | C(CBr)Br | C2H4Br2
solvent | n-hexane | CCCCCC | C6H14
solvent | Dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-(2,2-dibromovinyl)-2,2-dimethylcyclopropanecarboxylate | 16.28 g, 87% yield | BrC(=CC1C(C1C(=O)OCC)(C)C)Br | C10H14Br2O2
